US05128356
Ethyl 2-ethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
A mixture of ethyl 1-[(2'-cyanobiphenyl-4yl)methyl]-2-ethylbenzimidazole-7-carboxylate (1.55 g), sodium azide (2.6 g) and ammonium chloride (2.14 g) in DMF (15 ml) was stirred for 5 days at 110°-120 C. The reaction mixture was worked up according to the procedure described in Working Example 23 to give crystals. Recrystallization from ethanol afforded colorless prisms (0.68 g, 40%), m.p. 188°-189° C.

reactant | ethyl 1-[(2'-cyanobiphenyl-4yl)methyl]-2-ethylbenzimidazole-7-carboxylate | 1.55 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OCC)CC | C26H23N3O2
reactant | sodium azide | 2.6 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.14 g | [Cl-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-ethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C26H24N6O2
